US07632857B2
Procedure R′: A 15 m-1L DMF mixture of 4-bromo-N-tert-butyl-benzenesulfonamide (1022 mg, 3.5 mmol), iodomethane (0.44 mL, 7 mmol), and K2CO3 (987 mg, 7 mmol) is stirred at room temperature overnight. Water and ethyl acetate are added to the mixture. The aqueous layer is extracted several times with ethyl acetate. The combined organic layers are washed with H2O and brine, then dried over Na2SO4 and evaporated. The crude product is purified by silica-gel column chromatography (gradient: 100% CH2Cl2 to 20% EtOAc/CH2Cl2) give the intermediate 4-bromo-N-tert-butyl-N-methyl-benzenesulfonamide (1040 mg, 97% yield). MS (ES+) 251.9 (M-tBu)+, NMR (CDCl3).

reactant | DMF | CN(C)C=O | C3H7NO
reactant | 4-bromo-N-tert-butyl-benzenesulfonamide | 3.5 mmol, 1022 mg | BrC1=CC=C(C=C1)S(=O)(=O)NC(C)(C)C | C10H14BrNO2S
reactant | iodomethane | 7 mmol, 0.44 mL | IC | CH3I
reactant | K2CO3 | 7 mmol, 987 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 4-bromo-N-tert-butyl-N-methyl-benzenesulfonamide | 1040 mg, 97% yield | BrC1=CC=C(C=C1)S(=O)(=O)N(C)C(C)(C)C | C11H16BrNO2S
